US09260439B2
Step 2: Preparation of 2-amino-2-methylpropyl 4-methoxybenzoate hydrochloride
A solution of hydrochloric acid in dioxane (5.0 mL, 20.0 mmol) was added to a solution of 2-[(tert-butoxycarbonyl)amino]-2-methylpropyl 4-methoxybenzoate (0.32 g, 1.0 mmol) in DCM (10 mL) and the mixture was stirred for 1.5 h at room temperature. The reaction mixture was concentrated to give the title compound (0.26 g, 100%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.32 (br s, 3 H), 8.11 (m, J=8.9 Hz, 2 H), 7.06 (m, J=8.9 Hz, 2 H), 4.24 (s, 2 H), 3.85 (s, 3 H), 1.35 (s, 6 H). m/z (APCI+) for C12H17NO3 224.0 (M+H)+.

reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 20.0 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
reactant | 2-[(tert-butoxycarbonyl)amino]-2-methylpropyl 4-methoxybenzoate | 1.0 mmol, 0.32 g | COC1=CC=C(C(=O)OCC(C)(C)NC(=O)OC(C)(C)C)C=C1 | C17H25NO5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-2-methylpropyl 4-methoxybenzoate hydrochloride | 0.26 g, 100% | Cl.COC1=CC=C(C(=O)OCC(C)(C)N)C=C1 | InChI=1S/C12H17NO3.ClH/c1-12(2,13)8-16-11(14)9-4-6-10(15-3)7-5-9;/h4-7H,8,13H2,1-3H3;1H
